US07342032B2
Part A: Ethyl 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate (1.80 gram, 3.94 mmol) is dissolved in methanol (20 mL) and a solution of KOH (0.65 gram (85%), 9.85 mmol) in water (20 mL) is added. The resulting mixture is heated at reflux temperature for 1 hour, poured into water and acidified with hydrochloric acid (1N solution). The formed precipitated material is collected by filtration and dried in vacuo at room temperature to give a quantitative yield of 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-thiazole-2-carboxylic acid. Melting point: 94-95° C.

reactant | Ethyl 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate | 3.94 mmol, 1.80 gram | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H12BrCl2NO2S
reactant | KOH | 9.85 mmol, 0.65 gram | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-thiazole-2-carboxylic acid | quantitative yield | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H8BrCl2NO2S
